US05140041
1-(4'-Fluorophenoxycarbonyl)-2-pyrrolidinone
To a solution of 4-fluorophenyl chloroformate (3.55 g, 20.0 mmol) in anhydrous benzene (10 ml ) was added a solution of 1-trimethylsilyl-2-pyrrolidinone (3.46 g, 22.0 mmol) in anhydrous benzene (10 ml). The mixture was stirred at room temperature for 30 min. The reaction mixture was evaporated under reduced pressure to dryness to give a solid material. Recrystallization from 2-propanol afforded 2.24 g of colorless prisms. Yield 46.9%

reactant | 4-fluorophenyl chloroformate | 20.0 mmol, 3.55 g | ClC(=O)OC1=CC=C(C=C1)F | C7H4ClFO2
reactant | 1-trimethylsilyl-2-pyrrolidinone | 22.0 mmol, 3.46 g | C[Si](N1C(CCC1)=O)(C)C | C7H15NOSi
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 1-(4'-Fluorophenoxycarbonyl)-2-pyrrolidinone | 2.24 g, Yield 46.9% | FC1=CC=C(OC(=O)N2C(CCC2)=O)C=C1 | C11H10FNO3
